US04146611
5-Amino-2-mercaptomethylpentanoic acid
2-Acetylthiomethyl-5-aminopentanoic acid (1 g.) is dissolved in a mixture of water (12 ml.) and concentrated ammonia (12 ml.) under a blanket of argon. The solution is stored for twenty minutes at room temperature and concentrated to dryness in vacuo. The residue is applied to a column of Dowex 50 in the hydrogen cycle, the column is washed with water and 5-amino-2-mercaptomethylpentanoic acid is eluted with 2M pyridine-acetate buffer pH 6.5.

reactant | 2-Acetylthiomethyl-5-aminopentanoic acid | 1 g | C(C)(=O)SCC(C(=O)O)CCCN | C8H15NO3S
solvent | water | 12 ml | O | H2O
solvent | ammonia | 12 ml | N | H3N
product | 5-Amino-2-mercaptomethylpentanoic acid | NCCCC(C(=O)O)CS | C6H13NO2S
